US04285867
3-Benzyloxybenzene-2-propanol
To a 0° solution of 2.2 mole of methyl magnesium iodide in 1.5 l. ether is added a solution of 200 g. (1.06 mole) of methyl 3-benzyloxybenzoate in 500 ml. ether and 500 ml. tetrahydrofuran. The reaction mixture is stirred for 3 hours and then added to 1.5 l. ice cold saturated ammonium chloride and 2 l. ether. The organic extract is dried over magnesium sulfate and evaporated to an oil. Crystallization of the crude oil in petroleum ether gives 186 g. (93%) of the title compound.

reactant | methyl magnesium iodide | 2.2 mole | C[Mg]I
reactant | methyl 3-benzyloxybenzoate | 1.06 mole | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1 | C15H14O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-Benzyloxybenzene-2-propanol | 93% | C(C1=CC=CC=C1)OC=1C(=CC=CC1)CCCO | C16H18O2
